US09061060B2
Preparation of (5-bromo-2-chlorophenyl)(3,5-difluoro-4-hydroxyphenyl)-methanone (96)
To a solution of 5-bromo-2-chlorobenzoic acid (3.2 g, 13.5 mmol) in dichloromethane (40 mL), oxalyl dichloride (1.7 mL, 27.1 mmol) was added. Then N,N-dimethylformamide (50 mL) was added dropwise. After the vigorous evolution of gas ceased, the mixture was stirred at 25° C. overnight prior to removal of the volatiles under reduced pressure. The residue was dissolved in dichloromethane (20 mL) and cooled to 0° C. Aluminum trichloride (2.7 g, 20.4 mmol) was added in portions, and the mixture was stirred for 10 minutes. Then 1,3-difluoro-2-methoxybenzene (2.0 g, 13.8 mmol) was added, and the mixture was stirred at 0° C. for 2 hours. Then the reaction was allowed to warm to 25° C. overnight. The reaction was quenched with ice-water (30 mL) and extracted with dichloromethane (2×20 mL). The combined organic layers were washed with sodium hydroxide (2 M), water, hydrochloric acid (10%), and brine prior to drying over sodium sulfate. Crude product was obtained after dichloromethane was removed under reduced pressure. The sample was dissolved in tetrahydrofuran/methanol/water (30 mL, v/v/v=2:3:1), and lithium hydroxide monohydrate (700 mg) was added. The mixture was stirred for 1 hour at 25° C. The solvent was removed under reduced pressure. The aqueous layer was extracted with ethyl acetate (3×30 mL), and the extracts were washed with brine, dried over sodium sulfate, and concentrated to a crude product under reduced pressure. The residue was purified by silica column chromatography to give 1.46 g of white solid (30% yield, purity: 95%). 1H-NMR (CDCl3, 400 MHz): δ 7.59-7.62 (m, 1H), 7.49-7.50 (m, 1H), 7.36-7.42 (m, 3H); HPLC-MS method: Method 2, retention time 3.81 min; MS ES+ (m/z): 345 (M−1)−.

reactant | 5-bromo-2-chlorobenzoic acid | 13.5 mmol, 3.2 g | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | oxalyl dichloride | 27.1 mmol, 1.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Aluminum trichloride | 20.4 mmol, 2.7 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 1,3-difluoro-2-methoxybenzene | 13.8 mmol, 2.0 g | FC1=C(C(=CC=C1)F)OC | C7H6F2O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | (5-bromo-2-chlorophenyl)(3,5-difluoro-4-hydroxyphenyl)-methanone | 1.46 g, 30% yield | BrC=1C=CC(=C(C1)C(=O)C1=CC(=C(C(=C1)F)O)F)Cl | C13H6BrClF2O2
